US08685977B2
Tert-butyl 5-chloro-4-[3-chloro-4-(trifluoromethoxy)phenoxy]-2-fluorobenzoate
3-chloro-4-(trifluoromethoxy)phenol (22.6 g, 0.106 mol) and tert-butyl 5-chloro-2,4-difluorobenzoate (Preparation 51, 26.4 g, 0.106 mol) were dissolved in dimethlysulfoxide (105 mL). Then potassium carbonate (29.4 g, 0.213 mol) was added portionwise to the mixture, which was stirred at room temperature for 18 hours. The reaction mixture was dropped into iced water (500 mL) and stirred vigorously for 4 hours. The resulting solid was collected by filtration then taken up in isopropanol (75 mL) and water (15 mL). The reaction was heated to 55° C., then cooled down to room temperature. The resulting solid was collected by filtration to yield the title compound as an off-white white solid (35.3 g, 75%).

reactant | 3-chloro-4-(trifluoromethoxy)phenol | 0.106 mol, 22.6 g | ClC=1C=C(C=CC1OC(F)(F)F)O | C7H4ClF3O2
reactant | tert-butyl 5-chloro-2,4-difluorobenzoate | 0.106 mol, 26.4 g | ClC=1C(=CC(=C(C(=O)OC(C)(C)C)C1)F)F | C11H11ClF2O2
reactant | potassium carbonate | 0.213 mol, 29.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 500 mL | O | H2O
solvent | dimethlysulfoxide | 105 mL | CS(=O)C | C2H6OS
product | Tert-butyl 5-chloro-4-[3-chloro-4-(trifluoromethoxy)phenoxy]-2-fluorobenzoate | 35.3 g, 75% | ClC=1C(=CC(=C(C(=O)OC(C)(C)C)C1)F)OC1=CC(=C(C=C1)OC(F)(F)F)Cl | C18H14Cl2F4O4
